US08420629B2
Step 4. ethyl 3-(cyanomethylene)cyclobutanecarboxylate
To a suspension of sodium hydride (60% dispersion in mineral oil, 0.730 g, 18.3 mmol) in tetrahydrofuran (100 mL) at 0° C. was added diethyl cyanomethylphosphonate (3.22 mL, 19.9 mmol), dropwise. The cooling bath was removed and the reaction was allowed to reach room temperature and was stirred at this temperature for 45 minutes. The solution was re-cooled to 0° C. and a solution of ethyl 3-oxocyclobutanecarboxylate (2.36 g, 16.6 mmol) in tetrahydrofuran (50 mL) was introduced dropwise. After stirring for 2 hours, water and ethyl ether were added into the reaction. The layers were separated and the aqueous portion extracted with two further portions of ether. The combined extracts were washed with brine, dried over sodium sulfate, decanted and concentrated. The residue was azeotroped once with toluene to afford product, used without further purification in Step 5.

reactant | sodium hydride | 18.3 mmol, 0.730 g | [H-].[Na+]
reactant | diethyl cyanomethylphosphonate | 19.9 mmol, 3.22 mL | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | ethyl 3-oxocyclobutanecarboxylate | 16.6 mmol, 2.36 g | O=C1CC(C1)C(=O)OCC | C7H10O3
reactant | water | O | H2O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | ethyl ether | C(C)OCC | C4H10O
product | ethyl 3-(cyanomethylene)cyclobutanecarboxylate | C(#N)C=C1CC(C1)C(=O)OCC | C9H11NO2
